Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
___/___
 
Major Surgical or Invasive Procedure:
___  Deceased donor liver transplant, back table
preparation of deceased donor liver allograft, back table
preparation of donor arterial conduit, supraceliac
aortic conduit.
.
___: Bilateral chest tube placement (both removed prior to 
discharge)

 
History of Present Illness:
___ who presents to the hospital for a possible
deceased donor liver transplant. He has a history of liver
cirrhosis and HCC with a lab MELD score of 7 but exception score
of 32.  

He is asymptomatic and has no liver decompensation. He has no
hematemesis or melena he has had no significant abdominal
swelling or ankle swelling.  He has had no jaundice
pill stools or dark urine.  His past medical history is notable
for potential hematuria with kidney stones.  He has never been
hospitalized for any medical illness.

Today he reports feeling well overall. He is understandably
nervous given the possible upcoming surgery.  

 
Past Medical History:
Past Medical History:
Cirrhosis
Hepatocellular carcinoma
Portal Hypertension
Esophageal varices grade 1 varices
Nephrolithiasis and recurrent UTI
.                                      
                       
Past Surgical History:
___: RFA ablation
___:  Cystourethroscopy, dilation and urethrotomy of
urethral strictures, catheter insertion(complex).    
 
Social History:
___
Family History:
No family history of colon cancer, liver cancer or other GI or
liver diseases.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:
97.9F,BP 128/78,HR 96,RR 16, 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender, no rebound or guarding, no
palpable masses
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 328)
    Temp: 97.8 (Tm 98.2), BP: 125/71 (115-129/66-74), HR: 77
(73-99), RR: 18, O2 sat: 97% (94-98), O2 delivery: RA, Wt: 207.5
lb/94.12 kg

Fluid Balance (last updated ___ @ 2226)
  Last 8 hours  Total cumulative -280ml
    IN: Total 120ml, PO Amt 120ml
    OUT:  Total 400ml, Urine Amt 400ml
  Last 24 hours  Total cumulative -720ml
    IN: Total 1240ml, PO Amt 1240ml
    OUT:  Total 1960ml, Urine Amt 1900ml, Chest Tube (R) 60ml

GENERAL: [x]NAD [x]A/O x 3 
CARDIAC: [x]RRR 
LUNGS: [x]no respiratory distress [x] previous CT site w/o
leakage
ABDOMEN: [x]NBS  [x]soft  [x]Nontender [x]nondistended  [x]no
rebound/guarding 
WOUND: [x]CD&I  [x]no erythema/induration 
EXTREMITIES: [x]no CCE  [x]Pulse 2+ ___ bilateral 
 
Pertinent Results:
Labs on Admission: ___ 
WBC-8.4 RBC-4.56* Hgb-13.4* Hct-40.1 MCV-88 MCH-29.4 MCHC-33.4 
RDW-13.5 RDWSD-43.3 Plt ___ PTT-29.3 ___
Glucose-87 UreaN-14 Creat-0.6 Na-138 K-3.7 Cl-103 HCO3-26 
AnGap-9*
ALT-37 AST-50* AlkPhos-115 TotBili-0.4
Albumin-4.0 Calcium-8.9 Phos-3.0 Mg-1.9
HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HBc-NEG
HIV Ab-NEG
HCV Ab-NEG
HBV VL-NOT DETECT HCV VL-NOT DETECT
.
Labs at Discharge: ___
WBC-12.8* RBC-2.87* Hgb-8.9* Hct-28.1* MCV-98 MCH-31.0 
MCHC-31.7* RDW-20.4* RDWSD-69.8* Plt ___ PTT-27.6 ___
Glucose-92 UreaN-17 Creat-0.9 Na-136 K-5.3 Cl-103 HCO3-22 
AnGap-11
ALT-68* AST-31 AlkPhos-241* TotBili-0.5
Calcium-8.0* Phos-4.3 Mg-1.7
tacroFK-11.6

___ Liver Duplex:
IMPRESSION: 
 
Patent hepatic vasculature with appropriate waveforms.

___ CTA Chest:
IMPRESSION:

1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. Moderate volume left-sided pleural effusion with relaxation 
atelectasis and collapse of the left lower lobe.
3. Intercostal approach right pigtail drainage catheter is 
entirely fissural,
starting in the minor, ending in the major.  Right pleural 
effusion is
minimal.  No pneumothorax
4. Multifocal opacities, some of which demonstrate ground-glass 
attenuation
are present throughout both lungs.  Possible etiologies include 
multifocal
pneumonia, aspiration or less likely pulmonary hemorrhage.

___ TTE:
IMPRESSION: Poor image quality. Normal left ventricular wall 
thickness, cavity size, and global systolic function. 

___ CXR:
IMPRESSION: 
 
In comparison with the study of ___, there is little 
interval change. 
Bilateral chest tubes are in place with no evidence of 
pneumothorax.  An
continued low lung volumes with the cardiac silhouette within 
normal limits. 
No vascular congestion or pleural effusion.  Streaks of 
atelectasis are seen at both bases

 
Brief Hospital Course:
Deceased donor liver transplant with supraceliac aortic arterial 
conduit and repair of right diaphragm, ___.  Surgeons were 
Dr. ___ Dr. ___ with an intraoperative consult to Dr. 
___.  Intraoperative fluids: Cell Saver 160 cc, crystalloid 3 
L, Plasma-Lyte 1 L, albumin 1 L.  Post-operative chest x-ray 
revealed PA in right main pulm artery, NG tube in stomach, ETT 
in between clavicle and carina. Left lung field minor 
atelectasis. No pleural effusion or PTX. Post op liver U/S: 
Patent hepatic vasculature with appropriate waveforms.  The 
patient was resuscitated appropriately in the SICU. Antibiotics 
were discontinued after 24 hour course, his ___ was exchanged 
for a triple lumen CVL, and he was called out to the floor on 
POD#2.  At this time his arterial line and foley catheter were 
also discontinued.
.
The patient received routine induction immunosuppression to 
include Mycophenolate 1 gram pre-op and continued at 1 gram BID 
with good GI tolerance. Intra-op he received 500 mg Solumedrol, 
and started the solumedrol to prednisone taper per pathway, 
however the prednisone taper rate of decrease was dropped to 
every 5 days (instead of every 7) due to anxiety and possible 
steroid role.
Tacro was started on the evening of POD 1 with daily levels and 
dose adjusted per level. Discharge level was 11.6 and he is 
discharged on 2 mg BID.
.
On POD#3 he was offered a regular diet.  His foley catheter was 
replaced after he failed to void, and he was diuresed with 
intravenous Lasix.  

On POD#4 he was found to have a new oxygen supplementation 
requirement, first 3L NC and progressing to 10 L. After being 
placed on a non-rebreather, he was transferred to the ICU for 
high flow nasal cannula.  CXR revealed opacification of the left 
hemithorax concerning for pleural effusion, and a pigtail chest 
tube was placed.  A CTA of the chest was negative for PE, and he 
was intubated due to persistent hypoxia.  A right sided pigtail 
chest tube was also placed.  A dobhoff feeding tube was placed, 
and tube feeds were initiated.  He underwent bronchoscopic 
evaluation, revealing thick yellow secretions  A BAL was sent 
and empiric vanc/cefepime for possible pneumonia was initiated.  


On POD#5 he was extubated and weaned down on high flow nasal 
cannula.  He tolerated a clear liquid diet. 

On POD#6 he was advanced to a regular diet.  His chest x-ray was 
improved from prior.  His foley catheter was still in place for 
accurate urine monitoring.

On POD#7, ___, he tolerated a regular diet plus tube feeds, his 
urine output was satisfactory, and he had no further ICU needs.  
His lateral JP drain was removed, and his left pigtail chest 
tube was removed.  His foley catheter was removed after a dose 
of IV Lasix.  He was called out to the floor in good condition.

On POD#8, He was tolerating a regular diet. ___ was 
monitoring his blood sugars and adjusting his insulin as needed. 


On POD#9, His LFTs were slightly increased and he underwent 
ultrasound of the liver which demonstrated patent vasculature 
and good waveforms. A CXR demonstrated small pleural effusions 
and he was give Lasix to help reduce his volume overload.

On POD#10, ___, his other JP drain was removed and his dobhoff 
tube was removed with cessation of supplemental feeding. He 
continued to require insulin and he completed a 7 day coruse of 
cefepime for possible pneumonia. 

ON POD#___, ___, his WBC continued to be elevated. He remained 
afebrile and there was never purulent material coming from his 
drains. He underwent CT Torso with IV/PO contrast, which 
demonstrated small left pneumothorax, heterogenous fluid on the 
right base, and right subcutaneous emphysema. From ___, he 
was monitored with continued large amount of serous drainage 
from his chest tube. However, the amount was slowly down over 
these days and by ___ it put out less than 200cc over 24 hours. 
His chest tube was removed and his post pull was without 
pneumothorax. During this time period, his insulin regimen 
continued to be adjusted for improved blood sugars. On ___, he 
was deemed appropriate for discharge after the appropriate 
insulin management teaching, pharmacy teaching, and general care 
teaching. He understands that if he has any questions or 
concerns to give the transplant office a call. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN congestion 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
Stop using if having loose BMs or more than 2 BMs daily  
2.  Fluconazole 400 mg PO Q24H  
3.  NPH 9 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
4.  Mycophenolate Mofetil 1000 mg PO BID  
5.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
No driving if taking this medication. Taper as tolerated  
6.  Pantoprazole 40 mg PO Q24H  
7.  PredniSONE 15 mg PO DAILY Duration: 4 Days 
Continue taper as directed  
8.  Propranolol 10 mg PO BID  
9.  Senna 8.6 mg PO QHS 
___ discontinue use if having loose BMs or more than 2 BMs daily 
 
10.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium 
take only when instructed by the transplant coordinator  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
12.  Tacrolimus 2 mg PO Q12H  
13.  TraZODone 50 mg PO QHS:PRN insomnia  
14.  ValGANCIclovir 900 mg PO DAILY  
15.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
Maximum 4 of the 500 mg tablets daily  
16.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN congestion 
 
17.Glucometer kit
supply one kit as covered by patient's insurance
test glucose up to 4 times a day
refill: none
ICD 10 EO9.65
18.Glucometer Test Strips
test glucose up to 4 times per day
Supply: one box of 100
Refill: 2
ICD 10 EO9.65
19.Lancets
test blood glucose up to 4 times daily
Supply: one box of 100
Refill: 2    ICD10: EO9.65
20.Insulin Pen Needles
use to inject insulin 4 times daily, # 100, Refills: 2
32G, ___ nano)
ICD 10:EO9.65

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___/___ now s/p deceased donor liver transplant
Respiratory distress
Right and left pleural effusion
Pneumonia
malnutrition
Hyperglycemia

 
Discharge Condition:
activity as tolerated
no heavy lifting more than 10 pounds for 6 weeks after surgery/ 
no straining
may shower, but no tub baths

 
Discharge Instructions:
___ arranged to follow you at home
.
Please call the transplant clinic at ___ for fever of 
101 or higher, chills, nausea, vomiting, diarrhea, constipation, 
inability to tolerate food, fluids or medications, yellowing of 
skin or eyes, increased abdominal pain, incisional redness, 
drainage or bleeding, dizziness or weakness, decreased urine 
output or dark, cloudy urine, swelling of abdomen or ankles, or 
any other concerning symptoms.
.
Bring your pill box and list of current medications to every 
clinic visit.
.
You will need to have labwork drawn every ___ and ___ as 
arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, ALT, 
Alk Phos, T Bili, Trough Tacro level.
.
*** On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacrolimus with 
you so you may take your medication as soon as your labwork has 
been drawn.
.
Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.
.
You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.
.
No tub baths or swimming
.
No driving if taking narcotic pain medications
.
Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.
.
Drink enough fluids (but not plain water) to keep your urine 
light in color. Your appetite will return with time. Eat small 
frequent meals, and you may supplement with things like 
carnation instant breakfast or Glucerna.
.
Check your blood sugars at home and treat with insulin as you 
have been directed. Report values above 200 or less than 80 to 
the transplant clinic.
.
Check blood pressure at home. Report consistently elevated 
values above 160 systolic to the transplant clinic
.
Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant.
.
Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise
.
___ recommendations for managing Prednisone taper:
PREDNISONE & NPH tapered dosing as follows: 
15mg = 9 units 
12.5mg = 6 units
10mg = 6 units
7.5mg = 4 units
5mg = 4 units
2.5mg = 0 units (discontinue NPH) 
**Do not administer NPH insulin if you are not taking Prednisone
- both medications should be administered at the same time**

Humalog Sliding Scale - administer dose based on pre-meal
fingerstick blood glucose level (at B, L, D).  
71-150mg/dL = 0 units
151-200mg/dL = 2 units
201-250mg/dL = 3 units 
251-300mg/dL = 4 units 
> 300mg/dL = 5 units 
**Do not administer Humalog if you are not eating.**
 
Please call your provider (transplant team or primary care
physician) if you have frequent blood glucoses less than 70mg/dL
or frequent glucoses greater than 250mg/dL for possible
medication adjustments. Follow the Rule of 15 to treat
hypoglycemia (i.e. a blood glucose < 70mg/dL). Always carry
glucose tablets with you to treat a sudden low blood sugar. 

 
Followup Instructions:
___